US09212190B2
A solution of tert-butyl N-(4-[[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (709 mg, 1.60 mmol, 1.00 equiv) in 6 mL of MeOH was added LiOH.H2O (135 mg, 3.21 mmol, 2.01 equiv) and H2O2 (30%, 1 mL) at 0° C. The resulting solution was stirred for 2 h at room temperature and quenched with saturated aqueous NaHSO3 solution and extracted with 3×50 mL of ethyl acetate. The combined extracts were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:4) to give tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate (524 mg, 71%) as a white solid. MS: m/z 461 [M+H]+.

reactant | tert-butyl N-(4-[[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 1.60 mmol, 709 mg, 1.00 equiv | C(#N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C23H30N4O3S
reactant | LiOH.H2O | 3.21 mmol, 135 mg, 2.01 equiv | O[Li].O
reactant | H2O2 | 1 mL | OO | H2O2
solvent | MeOH | 6 mL | CO | CH4O
product | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-methylcarbamate | 524 mg, 71% | C(N)(=O)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)C | C23H32N4O4S
